US06528525B1
(a) Ethyl 3-(4-hydroxyphenyl)-2-propylaminopropionate
In a similar manner to that described in Reference example 59(a), a reaction is carried out using DL-tyrosine ethyl ester hydrochloride, propionaldehyde and sodium cyanoborohydride and the reaction mixture is treated to afford the desired compound.

reactant | DL-tyrosine ethyl ester hydrochloride | Cl.C(C)OC(C(N)CC1=CC=C(C=C1)O)=O
reactant | propionaldehyde | C(CC)=O | C3H6O
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
product | Ethyl 3-(4-hydroxyphenyl)-2-propylaminopropionate | OC1=CC=C(C=C1)CC(C(=O)OCC)NCCC | C14H21NO3
